US08097628B2
DIBAL-H (3.37 ml, 3.37 mmol) was slowly added to a solution of ethyl 5-chloro-6-iodo-3-pyridinecarboxylate (500 mg, 1.605 mmol) in THF (10 ml) at −78° C. The solution turned yellow and was stirred at that temperature for 3 h and then still in the dry-ice bath allowed to slowly attain room temperature overnight. Next morning, TLC showed starting material remaining. The solution was cooled to −78° C. and DIBAL-H (3.37 ml, 3.37 mmol) was added. 3 h later it was allowed to warm to room temperature and after 2 h starting material was still observed. More DIBAL-H (6.74 ml) was added and the solution stirred at room temperature overnight. Full conversion was observed. Saturated, aqueous NaK-tartrate solution and EtOAc were added. Extraction, drying (MgSO4), filtration, and concentration afforded (5-chloro-6-iodo-3-pyridinyl)methanol (393 mg, 91%) as a brown solid pure enough to be used in the next step.

reactant | DIBAL-H | 3.37 mmol, 3.37 ml | CC(C)C[AlH]CC(C)C
reactant | ethyl 5-chloro-6-iodo-3-pyridinecarboxylate | 1.605 mmol, 500 mg | ClC=1C=C(C=NC1I)C(=O)OCC | C8H7ClINO2
reactant | dry-ice | C(=O)=O | CO2
reactant | DIBAL-H | 3.37 mmol, 3.37 ml | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 6.74 ml | CC(C)C[AlH]CC(C)C
reactant | tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-chloro-6-iodo-3-pyridinyl)methanol | 393 mg, 91% | ClC=1C=C(C=NC1I)CO | C6H5ClINO
